US06172076B2
Preparation of 8-Benzyl-1-(3-methylphenyl)-1,3,8-triazaspiro[4.5]dec-2-en-4-one
To a mixture of 1-benzyl-4-(3-methylphenylamino)-isonipecotamide (4.3 g, 13.5 mmol) and glacial acetic acid (1.0 mL) in toluene (20 mL) heated under reflux, triethyl orthoformate (2.0 g, 13.5 mmol) was added over a period of 3 h using a syringe pump. The resultant mixture was refluxed for 38 h., and treated with a mixture of concentrated ammonium hydroxide (1.3 mL) and water (3.4 mL). The organic extract was isolated, washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was subjected to column chromatography on silica gel eluting with 5% methanol in chloroform. Collection and concentration of appropriate fractions provided the title compound.

reactant | 1-benzyl-4-(3-methylphenylamino)-isonipecotamide | 13.5 mmol, 4.3 g | C(C1=CC=CC=C1)N1CCC(C(=O)N)(CC1)NC1=CC(=CC=C1)C | C20H25N3O
reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
reactant | triethyl orthoformate | 13.5 mmol, 2.0 g | C(OCC)(OCC)OCC | C7H16O3
reactant | ammonium hydroxide | 1.3 mL | [OH-].[NH4+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 3.4 mL | O | H2O
product | 8-Benzyl-1-(3-methylphenyl)-1,3,8-triazaspiro[4.5]dec-2-en-4-one | C(C1=CC=CC=C1)N1CCC2(C(N=CN2C2=CC(=CC=C2)C)=O)CC1 | C21H23N3O
